US06423713B1
A mixture of 1-(4-chlorophenyl)-2-(1,3-dithietan-2-ylidene)-2-(4-pyridinyl)ethanone (3.2 g, 0.01 mol; prepared as set forth in Step 1 of Example A-341) and 2,6-dimethylpiperazine (3.43 g, 0.03 mol) in 35 mL of toluene was heated at reflux for 12 hours. Toluene and excess 2,6-dimethylpiperazine were then removed under vacuum and the crude thiamide produced was used without purification. A solution of the crude thiamide and anhydrous hydrazine (0.65 g, 0.02 mol) in 40 mL of dry tetrahydrofuran was stirred at room temperature overnight. After the removal of tetrahydrofuran, the residue was stirred with a mixture of ethyl acetate and ammonium hydroxide for one hour. The precipitate was filtered and air dried to give 1.6 g of 1-[5-(4-chlorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl]-3,5-dimethylpiperazine as a white solid (43% overall yield), mp: 236-238° C. Anal. Calc'd. for C20H22ClN5.0.25H2O: C, 64.51; H. 6.09; N, 18.81; Cl, 9.52. Found: C, 64.28; H, 5.85; N, 18.70; Cl, 9.67.

reactant | 1-(4-chlorophenyl)-2-(1,3-dithietan-2-ylidene)-2-(4-pyridinyl)ethanone | ClC1=CC=C(C=C1)C(C(C1=CC=NC=C1)=C1SCS1)=O | C15H10ClNOS2
reactant | 2,6-dimethylpiperazine | 0.03 mol, 3.43 g | CC1NC(CNC1)C | C6H14N2
reactant | hydrazine | 0.02 mol, 0.65 g | NN | H4N2
solvent | toluene | 35 mL | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 40 mL | O1CCCC1 | C4H8O
product | 1-[5-(4-chlorophenyl)-4-(4-pyridinyl)-1H-pyrazol-3-yl]-3,5-dimethylpiperazine | 1.6 g | ClC1=CC=C(C=C1)C1=C(C(=NN1)N1CC(NC(C1)C)C)C1=CC=NC=C1 | C20H22ClN5
